US05658491
Preparation of 5-(2-(Ethoxy)ethoxy)-2-[4-(3-(2-(2-(nonafluorobutoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-hydroxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine (1.0 g, 1.51 mmol,) and 2-bromoethyl ethyl ether (0.58 g, 3.79 mmol). The resulting crude product was isolated and further purified essentially as described in Example 3, eluting with 30 volume percent ethyl acetate/hexane, to yield 0.76 g of purified product.

reactant | 5-hydroxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine | 1.51 mmol, 1.0 g | OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C21H15F15N2O5
reactant | 2-bromoethyl ethyl ether | 3.79 mmol, 0.58 g | C(C)OCCBr | C4H9BrO
product | 5-(2-(Ethoxy)ethoxy)-2-[4-(3-(2-(2-(nonafluorobutoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine | C(C)OCCOC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C25H23F15N2O6
